US07786044B2
12. Preparation of 6-Amino-2-chloro-5-iodopyrimidine-4-carboxylic acid methyl ester
2,6-Dichloro-5-iodopyrimidine-4-carboxylic acid methyl ester (12 g, 36 mmol) was dissolved in dry dimethyl sulfoxide (DMSO; 100 mL) and treated with a stream of ammonia at such a rate when combined with external water bath cooling to keep the temperature in the range of 20-30° C. After 90 min, the ammonia addition was complete and excess ammonia was removed from the mixture by sparging with a stream of nitrogen for 20 min. The mixture was poured into water (200 mL) with stirring and the precipitated product was extracted with ethyl acetate (75 mL) twice. The combined ethyl acetate extracts were washed twice with water (50 mL), once with saturated NaCl solution, dried and evaporated to give the title compound (10 g, 89% yield) that was used without further purification. MS: M/Z=313.

reactant | 2,6-Dichloro-5-iodopyrimidine-4-carboxylic acid methyl ester | 36 mmol, 12 g | COC(=O)C1=NC(=NC(=C1I)Cl)Cl | C6H3Cl2IN2O2
reactant | ammonia | N | H3N
solvent | dimethyl sulfoxide | 100 mL | CS(=O)C | C2H6OS
product | 6-Amino-2-chloro-5-iodopyrimidine-4-carboxylic acid methyl ester | 10 g, 89% yield | COC(=O)C1=NC(=NC(=C1I)N)Cl | C6H5ClIN3O2
